US08802659B2
tert-butyl 3-(methylsulfonamido)-3-oxopropylcarbamate (3.6 g, 15.1 mmol) was dissolved in DCM (60 mL). Then CF3COOH (1.1 mL, 0.3 mmol, 20 equiv) was added to the mixture at 0° C. and stirred for 2 h at 0° C. The reaction mixture was concentrated. The residue was purified by flash chromatography to give 3-amino-N-(methylsulfonyl)propanamide as a transparent solid (1.8 g, 80%). (mobile phase: CH3OH/H2O=0˜5%). ESI-MS (M+1)+: 167.0. 1H NMR (400 MHz, CD3OD) δ: 3.21˜3.11 (m, 2H), 3.07 (s, 3H), 2.60˜2.54 (m, 2H).

reactant | tert-butyl 3-(methylsulfonamido)-3-oxopropylcarbamate | 15.1 mmol, 3.6 g | CS(=O)(=O)NC(CCNC(OC(C)(C)C)=O)=O | C9H18N2O5S
reactant | CF3COOH | 0.3 mmol, 1.1 mL, 20 equiv | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 3-amino-N-(methylsulfonyl)propanamide | 1.8 g, 80% | NCCC(=O)NS(=O)(=O)C | C4H10N2O3S
